US05466823
Step 1: Preparation of 4,4-difluoro-1-[4-(morpholino)phenyl]-butane-1,3-dione
Ethyl difluoroacetate (2.30 g, 18.5 mmol) was placed in a 100 mL round bottom flask and dissolved in THF (25 mL). To the stirred solution was added 25 weight % sodium methoxide (4.90 g, 22.6 mmol) followed by 4'-morpholinoacetophenone (3.45 g, 16.8 mmol). The reaction was stirred at room temperature overnight (15.8 hours), then treated with 3N HCl (13 mL). The reaction was extracted with ethyl acetate (20 mL), washed with brine (20 mL), dried over MgSO4, and concentrated in vacuo to give a green solid (4.36 g) which was recrystallized from methylene chloride/isooctane to give the diketone as a yellow solid (3.27 g, mp 102°-3° C., 69%). 1H NMR (CDCl3) 300 MHz 15.80 (br s, 1H), 7.86 (d, J=9.1 Hz, 2H), 6.90 (d, J=9.1 Hz 2H), 6.46 (s, 1H), 5.99 (t, J=54.4 Hz, 1H), 3.84 (m,4H), 3.36 (m, 4H); 19F NMR (CDCl3) 300 MHz: -126.75 (d); M+283.

reactant | Ethyl difluoroacetate | 18.5 mmol, 2.30 g | FC(C(=O)OCC)F | C4H6F2O2
reactant | sodium methoxide | 22.6 mmol, 4.90 g | C[O-].[Na+]
reactant | 4'-morpholinoacetophenone | 16.8 mmol, 3.45 g | O1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C12H15NO2
reactant | HCl | 3N, 13 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4,4-difluoro-1-[4-(morpholino)phenyl]-butane-1,3-dione | 4.36 g | FC(C(CC(=O)C1=CC=C(C=C1)N1CCOCC1)=O)F | C14H15F2NO3
